US05985909
A solution of 2-chloro-5-nitrobenzoic acid (10.14 g, 50.3 mmol), thionyl chloride (4.4 mL, 60 mmol) and DMF (4 drops) in 1,2-dichloroethane (150 mL) was stirred at reflux for 14 h, cooled and evaporated. The acid chloride was dissolved in THF (100 mL), cooled to 0° C., and a solution of potassium t-butoxide (5.57 g, 50 mmol) in THF (150 mL) added dropwise over 30 min under nitrogen. The mixture was stirred a further 15 min at 0° C., diluted with aq. NaHCO3, extracted with EtOAc (×2), and the extracts dried (Na2SO4) and evaporated. Crystallisation from petroleum ether gave t-butyl 2-chloro-5-nitrobenzoate as a white crystalline solid (10.1 g, 78%), mp 91.5-92° C. 1H NMR (CDCl3) δ8.59 (d, J=2.8 Hz, 1H, H-6), 8.24 (dd, J=8.8, 2.8 Hz, 1H, H-4), 7.63 (d, J=8.8 Hz, 1H, H-3), 1.65 (s, 9H, t-Bu); 13C NMR (CDCl3) d 163.0 (CO2tBu), 146.1, 140.0, 133.3, (C-1,2,5), 132.0, 126.1, 126.0 (C-3,4,6), 84.0 (CMe3), 28.1 (CH3). Anal. Calculated for C11H12ClNO4 : C, 51.3; H, 4.7; N, 5.4; Cl, 13.8. Found: C, 51.3; H, 4.5; N, 5.6; Cl, 14.0%.

reactant | 2-chloro-5-nitrobenzoic acid | 50.3 mmol, 10.14 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | thionyl chloride | 60 mmol, 4.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | potassium t-butoxide | 50 mmol, 5.57 g | CC(C)([O-])C.[K+]
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | t-butyl 2-chloro-5-nitrobenzoate | 10.1 g, 78% | ClC1=C(C(=O)OC(C)(C)C)C=C(C=C1)[N+](=O)[O-] | C11H12ClNO4
